US09387254B2
Preparation of 3-(4-bromophenyl)-3-hydroxypropanenitrile
A suspension of 4-bromobenzoylacetonitrile (500 mg) in ethanol (5 mL) and acetic acid (300 μL) was heated with sodium cyanoborohydride (280 mg) using an 80° C. hot plate for 2 hours. After cooling to ambient temperature, the mixture was diluted with water and concentrated to a syrup, which was diluted with ethyl acetate and washed with water, sat. NaHCO3, and brine. The extract was dried with mgSO4, filtered, and evaporated to provide 510 mg of a cloudy oil, which was filtered through silica gel using 1:1 ethyl acetate/hexane to provide the product (496 mg) as a thick oil.

reactant | 4-bromobenzoylacetonitrile | 500 mg | BrC1=CC=C(C(=O)CC#N)C=C1 | C9H6BrNO
reactant | sodium cyanoborohydride | 280 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | acetic acid | 300 μL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(4-bromophenyl)-3-hydroxypropanenitrile | 496 mg | BrC1=CC=C(C=C1)C(CC#N)O | C9H8BrNO
